Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
impacted food bolus
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
Mr. ___ is a ___ yo man with h/o CAD s/p DES, GERD, BPH, 
Schatzki's ring s/p dilation who presents with foreign body 
sensation.
Patient reports that he was eating steak on ___ when he felt a 
piece get stuck. He was subsequently unable to tolerate any PO. 
He went to ___ where he had glucagon, which allowed him to 
tolerate water but nothing further. He was transferred to ___.
In the ED, initial vitals were: 98.0 64 158/80 16 96%RA
Exam was unremarkable. Patient was given viscous lidocaine and 
remained unable to tolerate PO. He was seen by GI who performed 
EGD with removal of impacted food. He had esophagitis likely 
secondary to food impaction. Recommended admission to medicine 
for observation.
Upon arrival to the floor, patient reports a mild sore throat. 
Foreign body sensation and mild abdominal pain have resolved. He 
was able to drink some sips of water without a problem.
REVIEW OF SYSTEMS:
(+) Per HPI
(-) 10 point ROS reviewed and negative unless stated above in 
HPI

 
Past Medical History:
CAD s/p ___
HLD
BPH
GERD
Schatzki's ring s/p dilation ___

 
Social History:
___
Family History:
Mother also had h/o dysphagia requiring esophageal dilation.
 
Physical Exam:
Admission:
Vital Signs: 97.4 140 / 62 56 16 94 2L
General: pleasant, comfortable, NAD
HEENT: MMM
CV: bradycardic, regular, no m/r/g
Lungs: CTAB no w/r/r
Abdomen: soft, NTND, NABS
GU: No foley
Ext: WWP no c/c/e
Neuro: AOx3 moving all extrems equally

Discharge:
VS: 97.7 PO 150 / 66 R  56 20 92% RA
General: pleasant, comfortable, NAD
HEENT: MMM, slight pharyngeal erythema, PERRL, no sclearal 
icterus
CV: bradycardic, regular, no m/r/g
Lungs: CTAB no w/r/r
Abdomen: soft, NTND, NABS
GU: No foley
Ext: WWP no edema
Neuro: A&Ox3, grossly intact
 
Pertinent Results:
EGD ___:
Food in the mid and distal esophagus (foreign body removal)
Erythema and congestion in the lower esophagus compatible with 
esophagitis likely secondary to food impaction.
No ring or mass was noted in the entire esophagus or GEJ.
Fundus could not be visualized due to poor insufflation. 
Remaining stomach appeared normal.
Otherwise normal EGD to third part of the duodenum 
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with h/o CAD s/p DES to RCA ___, GERD, 
prior Schatzki ring s/p dilation in ___, who was transferred 
from ___ with esophageal food impaction. At ___ he 
received glucagon, which allowed him to tolerate liquids (but 
not solids). Upon arrival he was seen by the GI service, who 
performed EGD and removed impacted food bolus in the mid to 
lower esophagus. He was also found to have lower esophageal 
esophagitis, thought to be related to food impaction. However, 
due to poor insufflation, the fundus could not be examined. He 
will need a repeat EGD in ___ weeks to evaluate esophagitis and 
examine stomach fundus and cardia (to rule out cardia mass). He 
was admitted for observation. Had a brief O2 requirement after 
the procedure but was weaned to room air within hours. His 
omeprazole was increased to 20 mg BID.

TRANSITIONAL ISSUES
-needs repeat EGD in ___ weeks to evaluate esophagitis as well 
as GI follow-up. This can be arranged in ___ or ___.
-omeprazole increased to 20 mg BID. Consider decreasing dose 
upon resolution of esophagitis
-instructed to follow soft solids diet until follow up
# CODE: Full presumed
# CONTACT: ___ wife ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Lisinopril 10 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
6. Aspirin EC 325 mg PO DAILY 
7. Florajen3 (L.acidoph-B.lactis-B.longum) 460 mg (7.5-6- 1.5 
___. cell) oral DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*1 
2.  Aspirin EC 325 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Florajen3 (L.acidoph-B.lactis-B.longum) 460 mg (7.5-6- 1.5 
___. cell) oral DAILY  
6.  Lisinopril 10 mg PO DAILY  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Food Impaction, Esophagitis

Secondary: coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were seen at ___ for a food impaction in your esophagus.

WHILE YOU WERE IN THE HOSPITAL
-You had an endoscopy to remove the food impaction.
-Your esophagus was irritated, which we believe is from the food 
impaction.
-You remained stable after the procedure.

WHAT YOU SHOULD DO NOW
-We increased your omeprazole to twice daily.
-You should have a follow up endoscopy with the Gastroenterology 
service in ___ weeks. You can do this at ___ or here at 
___. Please ask your primary care physician to help set this 
up for you.
-Please eat only a soft diet until you have the repeat 
endoscopy.

We wish you the very best!

Your ___ Care Team
 
Followup Instructions:
___